US08420678B2
5-(5-Bromopentyl)-1,3,4-thiadiazol-2-amine.
6-Bromohexanoic acid (5.35 g, 27.4 mmol), concentrated sulphuric acid (15 mL), and thiosemicarbazide (3.0 g, 32.9 mmol) were slowly heated to 80-90° C. for 12 h. After cooling, the content was poured onto crushed ice. The mixture was neutralized with 10% aqueous ammonia and extracted with ethyl acetate (3×100 mL). The organic extracts were washed with 10% Na2CO3 (2×50 mL), water (100 mL), and brine (100 mL), dried over Na2SO4, filtered, and concentrated. The residue was purified by chromatography over silica gel 60 (70-230 mesh) eluted with CH2Cl2:MeOH 19:1 to give the product as a solid, mp 128-130° C., in 59% yield (4.03 g, 16.2 mmol). 1H NMR (300 MHz, CDCl3) δ 1.51-1.60 (m, 2), 1.71-1.79 (m, 2), 1.81-1.92 (m, 2), 2.92 (t, 2, J=7.5 Hz), 3.40 (t, 2, J=6.9 Hz), 5.33 (s, 2); 13C NMR (75 MHz, CDCl3) δ 26.9, 28.1, 29.3, 31.8, 35.0, 158.1, 168.2; HRMS (ESI+, m/z) calculated for C7H13BrN3S 250.0014, observed 250.0005 (M+H)+.

reactant | 6-Bromohexanoic acid | 27.4 mmol, 5.35 g | BrCCCCCC(=O)O | C6H11BrO2
reactant | sulphuric acid | 15 mL | S(O)(O)(=O)=O | H2O4S
reactant | thiosemicarbazide | 32.9 mmol, 3.0 g | NNC(=S)N | CH5N3S
reactant | ammonia | N | H3N
product | 5-(5-Bromopentyl)-1,3,4-thiadiazol-2-amine | 59% yield | BrCCCCCC1=NN=C(S1)N | C7H12BrN3S
